US08871782B2
mCPBA (60% pure, 12.76 g, 44.36 mmol) was added in one portion to a solution of tert-butyl[2-(2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]carbamate (14.4 g, 33.6 mmol) and chloroform (150 mL); the reaction mixture was stirred for 30 minutes. The reaction mixture was then poured into saturated aqueous sodium carbonate (100 mL) and stirred for 30 minutes. Chloroform (250 mL) was added, and the organic fraction was washed sequentially with 5% aqueous sodium carbonate, water, and brine; dried over magnesium sulfate; filtered; and concentrated under reduced pressure. The resulting red oil was triturated with ethyl acetate to provide 9.7 g of tert-butyl 2-[(2-ethoxymethyl-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate as a peach-colored powder.

reactant | mCPBA | 44.36 mmol, 12.76 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | tert-butyl[2-(2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]carbamate | 33.6 mmol, 14.4 g | C(C)(C)(C)OC(NCCOC1=CC=2C3=C(C=NC2C=C1)N=C(N3CCC)COCC)=O | C23H32N4O4
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-[(2-ethoxymethyl-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]ethylcarbamate | 9.7 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC(=CC23)OCCNC(OC(C)(C)C)=O)[O-])N1)CCC | C23H32N4O5
